US07105507B2
(4S)-3-{(2S)-1-Oxo-2-[3,5-bis(trifluoromethyl)phenyl]propyl}-4-(phenylmethyl)-2-oxazolidinone
Sodium bis(trimethylsilyl)amide (1M in tetrahydrofuran, 19.3 mL) was added slowly to a stirred, cooled (−78° C.) solution of (4S)-3-[3,5-bis(trifluoromethyl)benzeneacetyl]-4-(phenylmethyl)-2-oxazolidinone (Description 36, 7.25 g, 16.8 mmol) in tetrahydrofuran (60 mL) and the mixture was stirred at −78° C. for 1 hour. Iodomethane (21 mL, 33.6 mmol) was added and the mixture was stirred at −78° C. for 30 minutes, at 0° C. for 1 hour, then at room temperature overnight. Saturated aqueous ammonium chloride was added and the mixture was extracted with ethyl acetate. The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane:EtOAc (90:10 increasing to 85:15), to give the title compound as a colorless oil (5.14 g, 69%). 1H NMR (360 MHz, CDCl3) δ 7.84 (2H, s), 7.78 (1H, s), 7.38–7.27 (3H, m), 7.23–7.21 (2H, m), 5.26 (1H, q, J 7.0 Hz), 4.68–4.64 (1H, m), 4.19–4.15 (2H, m), 3.34 (1H, dd, J 3.3, 13.3 Hz), 2.83 (1H, dd, J 9.5, 13.3 Hz), and 1.60 (3H, d, J 7.0 Hz).

reactant | Sodium bis(trimethylsilyl)amide | 1M, 19.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (4S)-3-[3,5-bis(trifluoromethyl)benzeneacetyl]-4-(phenylmethyl)-2-oxazolidinone | 16.8 mmol, 7.25 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)(F)F | C20H15F6NO3
reactant | Iodomethane | 33.6 mmol, 21 mL | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | (4S)-3-{(2S)-1-Oxo-2-[3,5-bis(trifluoromethyl)phenyl]propyl}-4-(phenylmethyl)-2-oxazolidinone | 5.14 g, 69% | O=C([C@@H](C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C21H17F6NO3
